US07323447B2
Step 1: Preparation of 1-propylcarbamoylcyclopropanesulfonamide tert-butylcarbamate
This compound was obtained in a crude 100% yield according to the procedure described for the synthesis of 1-methoxymethylcyclopropylsulfonylamine tert-butyl-carbamate except that 1.10 equivalents of n-propyl isocyanate was used as the electrophile. The compound was taken directly into the next reaction without purification: 1H NMR (CDCl3) δ 0.10 (m, 2H), 0.51 (m, 2H), 0.67 (m, 1H), 1.10 (m, 2H), 1.49 (s, 9H), 1.62 (m, 2H), 1.87 (d, J=7.0 Hz, 2H).

reactant | 1-methoxymethylcyclopropylsulfonylamine tert-butyl-carbamate | C(C)(C)(C)NC(O)=O.COCC1(CC1)S(=O)(=O)N
reactant | n-propyl isocyanate | 1.10 equivalents | C(CC)N=C=O | C4H7NO
product | 1-propylcarbamoylcyclopropanesulfonamide tert-butylcarbamate | 100% yield | C(C)(C)(C)NC(O)=O.C(CC)NC(=O)C1(CC1)S(=O)(=O)N | InChI=1S/C7H14N2O3S.C5H11NO2/c1-2-5-9-6(10)7(3-4-7)13(8,11)12;1-5(2,3)6-4(7)8/h2-5H2,1H3,(H,9,10)(H2,8,11,12);6H,1-3H3,(H,7,8)
